US07138425B2
e) 2-(3-Naphtho[2,3-d]oxazol-2-yl-4-propylaminophenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-propylaminophenyl)naphth[2,3-d]oxazole (100 mg, 0.32 mmol) and 1,2,4-benzenetricarboxylic anhydride (67 mg, 0.35 mmol) the title compound was obtained (97 mg, 62%). 1H NMR (DMSO) δ 8.61(t, 1H), 8.42(dd, 1H), 8.32(m, 2H), 8.19(m, 2H), 8.11–8.05(m, 3H), 7.51(m, 3H), 7.05(d, 1H), 3.39(q, 2H), 1.79(m, 2H), 1.10(t, 3H). MS 490.0 m/z (M−H)−.

reactant | 2-(3-amino-6-propylaminophenyl)naphth[2,3-d]oxazole | 0.32 mmol, 100 mg | NC=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C1C=CC=CC1=C2 | C20H19N3O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.35 mmol, 67 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-(3-Naphtho[2,3-d]oxazol-2-yl-4-propylaminophenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | O1C(=NC2=C1C=C1C=CC=CC1=C2)C=2C=C(C=CC2NCCC)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C29H21N3O5
